US07569337B2
Benzothiazol-2-yl-acetic acid methyl ester
10 mg (0.025 mmol) 3-benzothiazol-2-yl-7-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-chromen-2-one are dissolved in 3 mL dichloromethane with 2.5 mg (0.8 eq.) 4-dimethylaminopyridine and 0.013 mL (3 eq.) diisopropylethylamine, and cooled to 0° C. 5.7 mg (1.2 eq.) tosyl chloride are added and the reaction mixture stirred for one hour before being allowed to reach room temperature. After an additional two hours stirring, the reaction mixture is evaporated, the residue taken up in tetrahydrofurane and treated with 0.2 mL tetrabutylammonium fluoride (1M in THF). After stirring for 30 minutes, the solution is evaporated and the desired product obtained as a yellow powder.

reactant | 3-benzothiazol-2-yl-7-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-chromen-2-one | 0.025 mmol, 10 mg | S1C(=NC2=C1C=CC=C2)C=2C(OC1=CC(=CC=C1C2)N2CCN(CC2)CCO)=O | C22H21N3O3S
reactant | diisopropylethylamine | 0.013 mL, 3 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tosyl chloride | 5.7 mg, 1.2 eq. | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.5 mg, 0.8 eq. | CN(C1=CC=NC=C1)C | C7H10N2
product | Benzothiazol-2-yl-acetic acid methyl ester | COC(CC=1SC2=C(N1)C=CC=C2)=O | C10H9NO2S
